US08975254B2
e) Pyridine-2-carboxylic acid [2-benzenesulfinyl-2-(5-bromofuran-2-yl)ethyl]-amide
Sodium periodate (57 mg, 0.2677 mmol) in a small amount of water was added to pyridine-2-carboxylic acid [2-(5-bromofuran-2-yl)-2-phenylsulfanylethyl]-amide (90 mg, 0.2231 mmol) in methanol (13 ml). After refluxing for 4 h another 57 mg (0.2677 mmol) of sodium periodate was added and refluxing was continued for 4.5 h. Water (30 ml) was added and the product was extracted into EtOAc. The organic phase was washed with water, dried with Na2SO4 and evaporated. The crude product was used as such in the next step.

reactant | Sodium periodate | 0.2677 mmol, 57 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | pyridine-2-carboxylic acid [2-(5-bromofuran-2-yl)-2-phenylsulfanylethyl]-amide | 0.2231 mmol, 90 mg | BrC1=CC=C(O1)C(CNC(=O)C1=NC=CC=C1)SC1=CC=CC=C1 | C18H15BrN2O2S
reactant | sodium periodate | 0.2677 mmol, 57 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | Water | 30 ml | O | H2O
solvent | methanol | 13 ml | CO | CH4O
product | Pyridine-2-carboxylic acid [2-benzenesulfinyl-2-(5-bromofuran-2-yl)ethyl]-amide | C1(=CC=CC=C1)S(=O)C(CNC(=O)C1=NC=CC=C1)C=1OC(=CC1)Br | C18H15BrN2O3S
